US07608639B2
(4-Bromo-2-methyl-phenoxy)-acetic acid ethyl ester
A mixture of 4-bromo-2-methylphenol (10.0 g, 53.5 mmol) and 325 mesh potassium carbonate (11.08 g, 80.2 mmol) in DMF (100 mL) is treated dropwise with bromoethyl acetate (10.71 g, 64.1 mmol) and then stirred for about 20 hours at room temperature under N2. The reaction is filtered, and the filtrate is acidified with 1 N HCl. The mixture is then diluted with water and extracted with Et2O. The organic layer is dried (Na2SO4), and the solvent is removed in vacuo to afford crude product that is absorbed on silica gel and purified by flash chromatography using 5/1 hexanes/ethyl acetate to afford about 15.01 g (100%) of the titled compound. Rf=0.33 (4/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3).

reactant | 4-bromo-2-methylphenol | 53.5 mmol, 10.0 g | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | potassium carbonate | 80.2 mmol, 11.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethyl acetate | 64.1 mmol, 10.71 g | C(C)(=O)OCCBr | C4H7BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (4-Bromo-2-methyl-phenoxy)-acetic acid ethyl ester | about 15.01 g, 100% | C(C)OC(COC1=C(C=C(C=C1)Br)C)=O | C11H13BrO3
